US07585880B2
(4-{1-[(4-phenyl-1,3-thiazol-2-yl)methyl]butyl}phenyl)methanol
To a suspension of triphenyl[(4-phenyl-1,3-thiazol-2-yl)methyl]phosphonium bromide (1.00 g, 1.94 mmol) synthesized according to the method described in Liebigs Annalen der Chemie, vol. 4, pages 623-632, 1981 in benzene (20 mL) was added potassium-t-butoxide (239 mg, 2.13 mmol), and the mixture was stirred under an argon atmosphere at room temperature for 3 hr. To a reaction solution was added dropwise a solution of methyl 4-butyrylbenzoate (319 mg, 1.55 mmol) in benzene (20 mL), and the mixture was stirred at room temperature for 3 hr and then heated under reflux for 16 hr. The reaction mixture was cooled to room temperature, poured into water and extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=5:95-20:80) to give a yellow oil. Tetrahydrofuran (20 mL), methanol (10 mL) and 10% palladium-carbon (200 mg) were added to the oil, and the mixture was stirred under a hydrogen atmosphere at room temperature for 2 days. The catalyst was filtered off, and the obtained filtrate was concentrated to give a colorless oil. To a solution of the oil in tetrahydrofuran (10 mL) was added dropwise 1.0M diisobutyl aluminum hydride toluene solution (10 mL, 10 mmol) under ice-cooling. The reaction mixture was stirred at room temperature for 2 hr, sodium sulfate 10 hydrate was added, and the mixture was further stirred at room temperature for 1 hr. The insoluble materials were filtered off and the filtrate was concentrated. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=10:90-60:40) to give the title compound (250 mg, yield 48%) as a colorless oil.

reactant | triphenyl[(4-phenyl-1,3-thiazol-2-yl)methyl]phosphonium bromide | 1.94 mmol, 1.00 g | [Br-].C1(=CC=CC=C1)[P+](CC=1SC=C(N1)C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium-t-butoxide | 2.13 mmol, 239 mg | CC(C)([O-])C.[K+]
reactant | methyl 4-butyrylbenzoate | 1.55 mmol, 319 mg | C(CCC)(=O)C1=CC=C(C(=O)OC)C=C1 | C12H14O3
reactant | diisobutyl aluminum hydride toluene | 10 mmol, 1.0M, 10 mL | C1(=CC=CC=C1)C.[H-].C(C(C)C)[Al+]CC(C)C
reactant | sodium sulfate 10 hydrate | O.O.O.O.O.O.O.O.O.O.[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 200 mg | [C].[Pd]
solvent | Tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | methanol | 10 mL | CO | CH4O
solvent | water | O | H2O
product | (4-{1-[(4-phenyl-1,3-thiazol-2-yl)methyl]butyl}phenyl)methanol | 250 mg, yield 48% | C1(=CC=CC=C1)C=1N=C(SC1)CC(CCC)C1=CC=C(C=C1)CO | C21H23NOS
